US06861428B2
3) Preparation of 4-(2-carboxyethyl)-2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one
Trifluoroacetic acid (21 mL) was added to 2-cyclopropylmethyl-4-[2,2-di(tert-butoxycarbonyl)ethyl]-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one (1.39 g, 2.77 mmol), and the mixture was stirred at room temperature for 30 minutes. The solvent was distilled off under reduced pressure, and toluene was added further, followed by azeotropic boiling. The residue was heated at 190 to 200° C. for 30 minutes under a nitrogen atmosphere to yield the title compound as a pale brown powder (yield: 907 mg, 94.7%).

reactant | Trifluoroacetic acid | 21 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-cyclopropylmethyl-4-[2,2-di(tert-butoxycarbonyl)ethyl]-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one | 2.77 mmol, 1.39 g | C1(CC1)CN1N=C(C=C(C1=O)CC(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C1=CC(=C(C=C1)OC)F | C27H35FN2O6
product | 4-(2-carboxyethyl)-2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazin-3-one | yield: 907 mg, 94.7% | C(=O)(O)CCC=1C(N(N=C(C1)C1=CC(=C(C=C1)OC)F)CC1CC1)=O | C18H19FN2O4
